US07951954B2
a) [4-({tert-Butoxycarbonyl-[2-(2,6-dichloro-phenyl)-ethyl]-amino}-methyl)-phenyl]-acetic acid
(4-Formylphenyl)-acetic acid ethyl ester (Example 16, step a, 0.44 g) was added to a solution of acetic acid (0.14 mL), trimethylorthoformate (2.53 g) and 2-(2,6-dichlorophenyl)ethylamine (0.54 mL) in dimethylformamide (10 mL) and stirred at room temperature, under nitrogen. After 1 hour, sodium triacetoxyborohydride (0.79 g) was added and the resulting mixture stirred for 18 hours, then concentrated. The residue was dissolved in methanol (5 mL) and loaded onto conditioned Tosic-65A resin (5 g, Argonaut). The resin was washed with methanol (3×20 mL) and then eluted with 3M methanolic ammonia solution (2×15 mL). The combined elution fractions were evaporated. The residue was dissolved in dichloromethane (10 mL) and di-tert-butyl dicarbonate (0.42 g) was added. The mixture was stirred at room temperature, under nitrogen, for 18 hours. Purification on silica, eluting with a gradient of iso-hexane/ethyl acetate [1:0 to 9:1] to give a clear oil. The oil was dissolved in tetrahydrofuran (4 mL) and a solution of lithium hydroxide (21 mg) in water (2 mL) was added and stirred for 18 hours, under nitrogen. The pH was adjusted to pH˜4 with acetic acid and the mixture concentrated to ˜2 mL. The aqueous residue was extracted with ethyl acetate (3×10 mL), the organics combined, washed with brine (10 mL), dried (magnesium sulfate) and evaporated, to give the subtitle compound as a gum (350 mg).

reactant | (4-Formylphenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C=O)=O | C11H12O3
reactant | trimethylorthoformate | 2.53 g | COC(OC)OC | C4H10O3
reactant | 2-(2,6-dichlorophenyl)ethylamine | 0.54 mL | ClC1=C(C(=CC=C1)Cl)CCN | C8H9Cl2N
reactant | sodium triacetoxyborohydride | 0.79 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | lithium hydroxide | 21 mg | [OH-].[Li+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 2 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.14 mL | C(C)(=O)O | C2H4O2
product | [4-({tert-Butoxycarbonyl-[2-(2,6-dichloro-phenyl)-ethyl]-amino}-methyl)-phenyl]-acetic acid | 350 mg | C(C)(C)(C)OC(=O)N(CCC1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)CC(=O)O | C22H25Cl2NO4
